US03940407
A solution of 57 g. of methyl 4-(tetrahydropyran-2-yloxy)phenylacetate, in 2 l. of anhydrous tetrahydrofuran is added dropwise, over a 30 minute period to a stirred suspension of 20 g. of lithium aluminum hydride in 1 l. of anhydrous tetrahydrofuran, under nitrogen atmosphere. The mixture is refluxed for 90 minutes, cooled and cautiously treated with 20 ml. of ethyl acetate, to destroy the excess reagent. Solid sodium sulfate is added, the inorganic material filtered off and thoroughly washed with hot ethyl acetate. Upon evaporation of the combined organic filtrates there is obtained 4-(tetrahydropyran-2-yloxy)phenylethanol.

reactant | methyl 4-(tetrahydropyran-2-yloxy)phenylacetate | O1C(CCCC1)OC1=CC=C(C=C1)CC(=O)OC | C14H18O4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(tetrahydropyran-2-yloxy)phenylethanol | O1C(CCCC1)OC1=CC=C(C=C1)C(C)O | C13H18O3
